US05118686
N-Methyl 6-hydroxy-2-(2-propoxyphenyl)pyrimidine-4-carboxamide
A solution of ethyl 6-hydroxy-2-(2-propoxyphenyl)pyrimidine -4-carboxylate (0.40 g) and methylamine in industrial methylated spirit (33%, 15 ml) in ethanol (15 ml) was stirred at ambient temperature for 6 hours and then allowed to stand for 3 days. The reaction mixture was evaporated under reduced pressure to yield a crude product which was recrystallised from ethanol to yield the title compound, 0.26 g, m.p. 165°-6° C.

reactant | ethyl 6-hydroxy-2-(2-propoxyphenyl)pyrimidine -4-carboxylate | 0.40 g | OC1=CC(=NC(=N1)C1=C(C=CC=C1)OCCC)C(=O)OCC | C16H18N2O4
reactant | methylamine | CN | CH5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-Methyl 6-hydroxy-2-(2-propoxyphenyl)pyrimidine-4-carboxamide | CNC(=O)C1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C15H17N3O3
